US04656141
9,10-Anthraquinone
9,10-Anthraquinone-2-sulfonic acid, sodium salt

reactant | 9,10-Anthraquinone-2-sulfonic acid | C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)S(=O)(=O)O | C14H8O5S
reactant | sodium | [Na] | Na
product | 9,10-Anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
